US06251917B1
a) (S)-2-Phenyloxymethyl-N-(3-phenylpropan-1-ol-2-yl)benzamide
2 g (8.8 mmol) of 2-phenoxymethylbenzoic acid were reacted with (S)-2-amino-3-phenyl-1-propanol by the method of procedure 7a. 2.7 g (84%) of the product were obtained.

reactant | 2-phenoxymethylbenzoic acid | 8.8 mmol, 2 g | O(C1=CC=CC=C1)CC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | (S)-2-amino-3-phenyl-1-propanol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (S)-2-Phenyloxymethyl-N-(3-phenylpropan-1-ol-2-yl)benzamide | 2.7 g, 84% | C1(=CC=CC=C1)OCC1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C23H23NO3
